### PR TITLE
feat(Algebra/Category/Ring/FilteredDescent): FP-algebra descent along filtered colimit (Stacks 00U3)

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Adds `Proetale/Mathlib/Algebra/Category/Ring/FilteredDescent.lean`, which proves **Stacks Tag 00U3**: if `F : J ⥤ CommRingCat` is a filtered diagram with colimit cocone `c` and `φ : c.pt ⟶ A` is a finitely presented ring map, then there exists a finite stage `j₀ : J`, an object `Aⱼ` and an FP map `φⱼ : F.obj j₀ ⟶ Aⱼ`, and a map `ψ : Aⱼ ⟶ A` such that the square

```
F.obj j₀ ──── c.ι.app j₀ ────▶ c.pt
   │                              │
   φⱼ                             φ
   ▼                              ▼
   Aⱼ ─────────── ψ ────────────▶ A
```

is a pushout (equivalently, `A ≃ c.pt ⊗[F.obj j₀] Aⱼ`).

- New file: `Proetale/Mathlib/Algebra/Category/Ring/FilteredDescent.lean` (191 lines, 0 sorries)
- Only imports Mathlib (no project-specific dependencies)
- Registered in `Proetale.lean`

## Source

Upstreamed from the `archon` branch (`Proetale/Mathlib/Algebra/Category/Ring/FilteredDescent.lean`), with style fixes: removed unused instance names, removed prohibited `show ... from` inside `rw`, cleaned up redundant comments.

### CODE REVIEW

File: Proetale/Mathlib/Algebra/Category/Ring/FilteredDescent.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+    {J : Type u} [SmallCategory J] [IsFiltered J] {F : J ⥤ CommRingCat.{u}}
+    {c : Cocone F} (hc : IsColimit c)
+    {A : CommRingCat.{u}} (φ : c.pt ⟶ A) (hφ : φ.hom.FinitePresentation) :
+    ∃ (j₀ : J) (Aⱼ : CommRingCat.{u}) (φⱼ : F.obj j₀ ⟶ Aⱼ) (ψ : Aⱼ ⟶ A),
+      φⱼ.hom.FinitePresentation ∧ IsPushout (c.ι.app j₀) φⱼ φ ψ := by
+  classical
+  let _ : Algebra c.pt A := φ.hom.toAlgebra
+  have : Algebra.FinitePresentation c.pt A := hφ
+  let P : Algebra.Presentation c.pt A _ _ := Algebra.Presentation.ofFinitePresentation _ _
+  have hPfin : P.coeffs.Finite := P.finite_coeffs
```
Comment (jjdishere) [inline Proetale/Mathlib/Algebra/Category/Ring/FilteredDescent.lean]: Inline this, there is no need to `have` this.

File: Proetale/Mathlib/CategoryTheory/Limits/Types/Filtered.lean [hunk 2]
```diff
@@ -0,0 +1,41 @@
...
+`Types.jointly_surjective_of_isColimit₂`. -/
+lemma jointly_surjective_finset_of_isColimit
+    {J : Type v} [Category.{w} J] [IsFiltered J] {F : J ⥤ Type u}
+    {c : Cocone F} (hc : IsColimit c) (s : Finset c.pt) :
+    ∃ (j : J) (lift : (↑s : Set c.pt) → F.obj j),
+      ∀ x : (↑s : Set c.pt), c.ι.app j (lift x) = x.val := by
+  classical
+  induction s using Finset.induction_on with
+  | empty =>
+    refine ⟨IsFiltered.nonempty.some, ?_, ?_⟩ <;> rintro ⟨x, hx⟩ <;> simp at hx
```
Comment (jjdishere) [inline Proetale/Mathlib/CategoryTheory/Limits/Types/Filtered.lean]:
```suggestion
    refine ⟨IsFiltered.nonempty.some, ?_, ?_⟩ <;> 
    rintro ⟨x, hx⟩ <;> 
    simp at hx
```

File: Proetale/Mathlib/CategoryTheory/Limits/Types/Filtered.lean [hunk 3]
```diff
@@ -0,0 +1,41 @@
...
+    let j : J := IsFiltered.max j₀ j₁
+    let m₀ : j₀ ⟶ j := IsFiltered.leftToMax j₀ j₁
+    let m₁ : j₁ ⟶ j := IsFiltered.rightToMax j₀ j₁
+    refine ⟨j, fun x ↦ if hxs : x.val ∈ s then F.map m₀ (lift₀ ⟨x.val, hxs⟩)
+        else F.map m₁ y₁, ?_⟩
+    rintro ⟨x, hx⟩
+    by_cases hxs : x ∈ s
+    · simp only [hxs, ↓reduceDIte]
+      rw [show c.ι.app j (F.map m₀ (lift₀ ⟨x, hxs⟩)) = c.ι.app j₀ (lift₀ ⟨x, hxs⟩) by
+        simp [Cocone.w_apply]]
```
Comment (jjdishere) [inline Proetale/Mathlib/CategoryTheory/Limits/Types/Filtered.lean]: Do not use `rw [show ...]`. write it in multiple tactics.

File: Proetale/Mathlib/CategoryTheory/Limits/Types/Filtered.lean [hunk 4]
```diff
@@ -0,0 +1,41 @@
...
+      exact h₀ ⟨x, hxs⟩
+    · obtain rfl : x = a := (Finset.mem_insert.mp hx).resolve_right hxs
+      simp only [hxs, ↓reduceDIte]
+      rw [show c.ι.app j (F.map m₁ y₁) = c.ι.app j₁ y₁ by simp [Cocone.w_apply]]
```
Comment (jjdishere) [inline Proetale/Mathlib/CategoryTheory/Limits/Types/Filtered.lean]: Do not use `rw [show ...]`. write it in multiple tactics.

File: Proetale/Mathlib/CategoryTheory/Limits/Types/Filtered.lean [hunk 5]
```diff
@@ -0,0 +1,41 @@
...
+    obtain ⟨j₀, lift₀, h₀⟩ := ih
+    obtain ⟨j₁, y₁, hy₁⟩ := Types.jointly_surjective_of_isColimit hc a
+    let j : J := IsFiltered.max j₀ j₁
+    let m₀ : j₀ ⟶ j := IsFiltered.leftToMax j₀ j₁
+    let m₁ : j₁ ⟶ j := IsFiltered.rightToMax j₀ j₁
+    refine ⟨j, fun x ↦ if hxs : x.val ∈ s then F.map m₀ (lift₀ ⟨x.val, hxs⟩)
+        else F.map m₁ y₁, ?_⟩
+    rintro ⟨x, hx⟩
+    by_cases hxs : x ∈ s
+    · simp only [hxs, ↓reduceDIte]
```
Comment (jjdishere) [inline Proetale/Mathlib/CategoryTheory/Limits/Types/Filtered.lean]:
```suggestion
    · simp only [hxs, reduceDIte]
```

**Comment by jjdishere** [comment]
orchestra address review

**Review by jjdishere — APPROVED** [review]

**Review by jjdishere — COMMENTED** [review]
Add this lemma and its proof in the blueprint `blueprint/src/chapters/more-on-local-structure.tex`, add `\lean` and `\leanon`, add proper `\uses` in the blue print where this lemma is used.

**Comment by jjdishere** [comment]
orchestra address review

File: blueprint/src/chapters/more-on-local-structure.tex [hunk 6]
```diff
@@ -44,6 +44,34 @@ \chapter{More on local structure}
     Omitted.
 \end{proof}
 
+\begin{lemma}[\stacksproject{00U3}]
+    Let $F : J \to \mathrm{CommRing}$ be a filtered diagram of commutative rings with
+    colimit cocone $c$, and let $\varphi : c.\mathrm{pt} \to A$ be a finitely presented
```
Comment (jjdishere) [inline blueprint/src/chapters/more-on-local-structure.tex]: the statement and the proof should be pure natural language, now it uses formal notations c.pt, change this.

**Review by jjdishere — COMMENTED** [review]
orchestra address review

**Comment by jjdishere** [comment]
orchestra address review

File: blueprint/src/chapters/more-on-local-structure.tex
Comment (jjdishere) [inline blueprint/src/chapters/more-on-local-structure.tex:1]: which theroem further uses lemma:fp-algebra-descent-filtered-colim? please add \uses

**Comment by jjdishere** [comment]
orchestra address review
